US05177069
To a solution of benzyl 4-(N-ethoxycarbonylmethyl-N-pentylcarbamoyl)-5-(2-naphthylsulfonyl)pentanoate (200 mg) in ethanol (10 ml) was added 10% Pd-C (20 mg), and the mixture was hydrogenolyzed at atmospheric pressure for 60 hours. After the catalyst was filtered off, the filtrate was concentrated in vacuo. The residue was purified by flash column chromatography on silica eluting with chloroform/methanol (10:1), and recrystallized from isopropyl ether-hexane to give 170 mg of 4-(N-ethoxycarbonylmethyl-N-pentylcarbamoyl)-5-(2-naphthylsulfonyl)pentanoic acid.

reactant | benzyl 4-(N-ethoxycarbonylmethyl-N-pentylcarbamoyl)-5-(2-naphthylsulfonyl)pentanoate | 200 mg | C(C)OC(=O)CN(C(=O)C(CCC(=O)OCC1=CC=CC=C1)CS(=O)(=O)C1=CC2=CC=CC=C2C=C1)CCCCC | C32H39NO7S
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | Pd-C | 20 mg | [Pd] | Pd
product | 4-(N-ethoxycarbonylmethyl-N-pentylcarbamoyl)-5-(2-naphthylsulfonyl)pentanoic acid | 170 mg | C(C)OC(=O)CN(C(=O)C(CCC(=O)O)CS(=O)(=O)C1=CC2=CC=CC=C2C=C1)CCCCC | C25H33NO7S
